US05189179
6B) 6-Oxo-N-[4-(trifluoromethyl)phenyl]-hexanamide
A solution of sodium bicarbonate (0.250 g), potassium iodide (0.050 g), and 6-bromo-N-[4-(trifluoromethyl)phenyl]hexanamide (1.00 g) in dimethylsulfoxide (15 mL) was heated at 125°-130° C. for 3.5 hours while stirring under a nitrogen atmosphere. The reaction was treated with water (75 mL) and extracted with ether. The ether extract was washed with brine (50 mL), dried over sodium sulfate after adding dichloromethane (30 mL), filtered, and concentrated in vacuo. Chromatography using 50/50 ethyl acetate/hexane gave a white solid (Rf =0.2 in same solvent system, 0.326 g), identified as the title compound. m.p.: 129.5°-131.0° C.

reactant | sodium bicarbonate | 0.250 g | C([O-])(O)=O.[Na+]
reactant | potassium iodide | 0.050 g | [I-].[K+]
reactant | 6-bromo-N-[4-(trifluoromethyl)phenyl]hexanamide | 1.00 g | BrCCCCCC(=O)NC1=CC=C(C=C1)C(F)(F)F | C13H15BrF3NO
reactant | water | 75 mL | O | H2O
solvent | dimethylsulfoxide | 15 mL | CS(=O)C | C2H6OS
product | 6-Oxo-N-[4-(trifluoromethyl)phenyl]-hexanamide | O=CCCCCC(=O)NC1=CC=C(C=C1)C(F)(F)F | C13H14F3NO2
